US07208629B2
3-Iodo-4-methylbenzoic acid (8.7 g, 33.3 mmol), (4-methoxycarbonylphenyl)boronic acid (6.0 g, 33.3 mmol), caesium carbonate (10.8 g, 33.3 mmol) and tetrakis(triphenylphosphine)palladium (1.92 g, 1.67 mmol) in DME (120 ml) were heated at 90° C. for 6 h. The cooled reaction mixture was filtered and the residue washed with DME. The combined filtrate and washings were absorbed onto silica and chromatographed on a silica flash column eluting with DCM/ethanol/ammonia (40:8:1 then 30:8:1). The product fractions were reduced to dryness under vacuum to give 4′-(methoxycarbonyl)-6-methyl-1,1′-biphenyl-3-carboxylic acid (2.28 g, 25%). LCMS: retention time 3.22 min, [M−H]−269.

reactant | 3-Iodo-4-methylbenzoic acid | 33.3 mmol, 8.7 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | (4-methoxycarbonylphenyl)boronic acid | 33.3 mmol, 6.0 g | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | caesium carbonate | 33.3 mmol, 10.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 120 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.67 mmol, 1.92 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-(methoxycarbonyl)-6-methyl-1,1′-biphenyl-3-carboxylic acid | 2.28 g, 25% | COC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)C(=O)O | C16H14O4
